US03962325
A solution of 17.6 g (0.10 mol) of CF3CH(COF)2 in 25 ml of ether was cooled at 0°C and stirred while 9.2 g (0.10 mol) of triethylamine was added dropwise in 15 minutes. Then 25.2 g (0.20 mol) of dimethyl sulfate was added all at once, and the mixture was allowed to stand at 25°C for 3 hours. Distillation gave 9.3 g (49%) of methyltrifluoromethylmalonyl fluoride, bp 62°-65°C. Redistillation gave an analytical sample, bp 64°-65.5°C; ir and nmr spectra were taken on a similarly prepared sample; ir (CCl4): 5.37 (COF) and 7.5-8.5 μ (CF); nmr (CCl4): 1H at 1.92 ppm (broadened singlet, CH3); 19F at 37.8 (quartet, JFF = 10 Hz into quartets, JHF = 1 Hz, 2, (COF) and -71.1 ppm (triplet, JFF = 10 Hz, into quartets, JHF = 0.8 Hz, 3, CF3).

reactant | CF3CH(COF)2 | 0.10 mol, 17.6 g | C(F)(F)(F)C(C(=O)F)C(=O)F | C4HF5O2
reactant | triethylamine | 0.10 mol, 9.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfate | 0.20 mol, 25.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ether | 25 ml | CCOCC | C4H10O
product | methyltrifluoromethylmalonyl fluoride | 9.3 g, 49% | CC(C(=O)F)(C(=O)F)C(F)(F)F | C5H3F5O2
